US06432993B1
(18-1) t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(pyridin-3-yloxy)phenyl}-N-methylcarbamate
In a similar manner to that described in Example (2-1), a reaction was carried out using t-butyl N-[2-amino-5-(pyridin-3-yloxy)phenyl]-N-methylcarbamate (0.63 g), 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid (0.62 g), diethyl cyanophsphonate (0.36 g), triethylamine (0.22 g) and anhydrous tetrahydrofuran (15 ml) and the reaction mixture was purified to give the desired product (0.88 g).

reactant | t-butyl N-[2-amino-5-(pyridin-3-yloxy)phenyl]-N-methylcarbamate | 0.63 g | NC1=C(C=C(C=C1)OC=1C=NC=CC1)N(C(OC(C)(C)C)=O)C | C17H21N3O3
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 0.62 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | triethylamine | 0.22 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(pyridin-3-yloxy)phenyl}-N-methylcarbamate | 0.88 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC=2C=NC=CC2)N(C(OC(C)(C)C)=O)C)C=C1 | C29H30N4O7S
